US07932272B2
5-(2.4-Difluorophenoxy)-furan-2-carbaldehyde
To a solution of 2,4-difluorophenol (6.54 mL, 68.0 mmol) in dimethylsulfoxide (70 mL) was sodium hydride (4534 mg, 68.0 mmol, 60% in oil), which was then stirred for 40 minutes. 5-Nitro-2-furaldehyde (8000 mg, 56.7 mmol) was added to the reaction solution, and the solution was stirred at room temperature for 2 hours. Water was added to the reaction mixture, which was then extracted with ethyl acetate. The organic layer was washed with water and brine, dried over anhydrous magnesium sulfate, and then, concentrated in vacuo. The resulting residue was purified by silica gel chromatography (hexane:ethyl acetate), and the title compound (4134 mg, 18.44 mmol, 33%) was obtained.

reactant | 2,4-difluorophenol | 68.0 mmol, 6.54 mL | FC1=C(C=CC(=C1)F)O | C6H4F2O
reactant | sodium hydride | 68.0 mmol, 4534 mg | [H-].[Na+]
reactant | 5-Nitro-2-furaldehyde | 56.7 mmol, 8000 mg | [N+](=O)([O-])C1=CC=C(O1)C=O | C5H3NO4
reactant | Water | O | H2O
solvent | dimethylsulfoxide | 70 mL | CS(=O)C | C2H6OS
product | 5-(2.4-Difluorophenoxy)-furan-2-carbaldehyde | 18.44 mmol, 4134 mg, 33% | FC1=C(OC2=CC=C(O2)C=O)C=CC(=C1)F | C11H6F2O3
